US05817822
To a solution of the crude 2-(R)-[(4-methoxybenzenesulfonyl)(4-picolyl)amino]-2-[(N-(2-(2,3-methylenedioxyphenyl)-ethoxycarbonyl))-4-piperidinyl]acetic acid (0.66 mmol) in methylene chloride (35 ml) is added O-tritylhydroxylamine (547 mg, 1.98 mmol), N-methylmorpholine (0.44 ml, 3.97 mmol), 1-hydroxy-7-azabenzotriazole (90 mg, 0.66 mmol) and 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (165 mg, 0.86 mmol). The reaction mixture is stired at room temperature for 18 hours, diluted with ethyl acetate and washed with water. The aqueous layer is extracted with ethyl acetate, the combined organic layers are washed with brine, dried over sodium sulfate, and concentrated in vacuo. The crude product is purified by silica gel chromatography (2% to 4% methanol in methylene chloride) to provide N-(trityl-oxy)-2-(R)-[(4-methoxybenzenesulfonyl) (4-picolyl)amino]-2-[(N-(2-(2,3-methylenedioxy-phenyl)-ethoxycarbonyl))-4-piperidinyl]acetamide.

reactant | 2-(R)-[(4-methoxybenzenesulfonyl)(4-picolyl)amino]-2-[(N-(2-(2,3-methylenedioxyphenyl)-ethoxycarbonyl))-4-piperidinyl]acetic acid | 0.66 mmol | COC1=CC=C(C=C1)S(=O)(=O)N([C@@H](C(=O)O)C1CCN(CC1)C(=O)OCCC1=C2C(=CC=C1)OCO2)CC2=CC=NC=C2 | C30H33N3O9S
reactant | O-tritylhydroxylamine | 1.98 mmol, 547 mg | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)ON | C19H17NO
reactant | N-methylmorpholine | 3.97 mmol, 0.44 ml | CN1CCOCC1 | C5H11NO
reactant | 1-hydroxy-7-azabenzotriazole | 0.66 mmol, 90 mg | ON1N=NC2=C1N=CC=C2 | C5H4N4O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.86 mmol, 165 mg | Cl.C(C)N=C=NCCCN(C)C
solvent | methylene chloride | 35 ml | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(trityl-oxy)-2-(R)-[(4-methoxybenzenesulfonyl) (4-picolyl)amino]-2-[(N-(2-(2,3-methylenedioxy-phenyl)-ethoxycarbonyl))-4-piperidinyl]acetamide | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)ONC([C@@H](C1CCN(CC1)C(=O)OCCC1=C2C(=CC=C1)OCO2)N(CC2=CC=NC=C2)S(=O)(=O)C2=CC=C(C=C2)OC)=O | C49H48N4O9S
